data/mechanism_extracts/JACS/10.1021_jacs.1c06700.json
{"doi": "10.1021_jacs.1c06700", "journal": "JACS", "is_review": false, "rxn_class_summary": "Copper-catalyzed diazidation of enamides, enecarbamates, aminocyclopropanes, and aminocyclobutanes with PIDA/TMSN3 (or Selectfluor/TMSN3), followed by one-pot nucleophilic substitution of the α-amino azide (masked iminium) to access orthogonally protected 1,2-, 1,3-, and 1,4-diamines.", "mechanism_family": ["radical_polar_crossover", "electrocatalysis_inner_sphere", "cation_initiated"], "electrochemical_role": null, "key_intermediates": [{"name": "Cu(III) species formed by oxidation of CuTc with Selectfluor (or PIDA)", "smiles": null, "role": "reactive"}, {"name": "aminium radical cation (I) from SET oxidation of aminocyclopropane", "smiles": null, "role": "transient"}, {"name": "distal carbon radical (II) after β-scission/ring-opening of cyclopropane", "smiles": null, "role": "reactive"}, {"name": "Cu(II)-N3 azide-transfer complex", "smiles": null, "role": "reactive"}, {"name": "iminium ion (III) after azidation of II and further oxidation", "smiles": null, "role": "transient"}, {"name": "α-amino azide / 1,3-diazide product (e.g., 6, 13a, 18) acting as masked iminium", "smiles": null, "role": "reactive"}, {"name": "[(BPhen)Cu(II)(N3)(μ-N3)]2 (Stahl complex) demonstrated as competent azide-transfer species with CuTc", "smiles": null, "role": "stoichiometric_intermediate"}], "electron_flow": "CuTc is oxidized by Selectfluor (or PIDA) to a high-valent Cu(III), which performs SET oxidation of the aminocyclopropane to an aminium radical; β-scission opens the ring to a distal C-radical that is azidated by a Cu(II)-N3 complex, regenerating Cu(I); a second oxidation gives an iminium that is trapped by azide (or by an added C-nucleophile in the one-pot variant). For enamides, an azide radical addition to the electron-rich alkene is proposed instead.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "With 5b, 6% TEMPO adduct 15 isolated and 94% 5b recovered; even without TMSN3 a TEMPO-water adduct forms, showing azide is not required for ring-opening."}, {"name": "Methyl acrylate", "smiles": "C=CC(=O)OC", "purpose": "radical_trap", "observation": "Radical relay gave 1,5-diazide 16 in 9%, consistent with a free carbon radical intermediate after β-scission."}, {"name": "Cyclopropyl/cinnamyl substrate 17 (radical clock + alkene)", "smiles": null, "purpose": "radical_clock", "observation": "With PIDA/TMSN3, 92% alkene 1,2-diazidation (18) with no cyclopropane ring-opening; redox potential of the alkene is lower than that of the aminocyclopropane, so π-bond is oxidized preferentially."}, {"name": "Cyclic voltammetry of 5b, 5m, 5p, 5r and CuTc", "smiles": null, "purpose": "redox_probe", "observation": "E1/2red of aminocyclopropanes (+1.67 to +2.23 V vs SCE) exceeds Selectfluor (+0.33, +0.79 V), so direct oxidation by Selectfluor is unfeasible; CuTc shows Cu(I)/Cu(II) at 0.86 V and Cu(II)/Cu(III) at 2.28 V, and a mixture of 5b+CuTc shows a new oxidation feature supporting Cu-mediated oxidation."}, {"name": "Chiral CN-BOX ligand with 5xb", "smiles": null, "purpose": "other", "observation": "No asymmetric induction observed, suggesting a freely diffusing radical intermediate."}, {"name": "Selectfluor (variation of CuTc loading)", "smiles": null, "purpose": "other", "observation": "Increasing CuTc loading raised 6xa:20 (azide vs fluoride) ratio from 85:15 to 96:4, implicating copper in azide group transfer rather than free F/N3 radicals."}, {"name": "[(BPhen)Cu(II)(N3)(μ-N3)]2 (Stahl complex)", "smiles": null, "purpose": "intermediate_trap", "observation": "Not catalytically competent alone, but transferred azide in the presence of CuTc, supporting a Cu-N3 azide transfer step."}], "evidence_types_used": ["radical_clock", "intermediate_trap_TEMPO", "intermediate_trap_other", "cyclic_voltammetry", "UV_vis", "stoichiometric_intermediate", "isolation_of_intermediate"], "evidence_strength": "strong", "notes": "Favored mechanism for aminocyclopropanes: Cu(III)-mediated SET oxidation → aminium radical → β-scission → C-radical → Cu(II)-N3 azide transfer → iminium → azide trapping. Alternatives considered but not preferred: (i) rebound mechanism in which Cu(III)-N3 oxidizes substrate and directly delivers N3; (ii) free azide radical recombination with carbon radical. For enamide/enecarbamate substrates, the mechanism is proposed to differ — addition of an azidyl radical to the electron-rich enamide alkene rather than substrate SET, as in prior styrene diazidation work."}
